US05015738
1,2-Dihydro-7-(2-phenylethyl)benzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one (2 g) was dissolved in dimethylformamide (50 ml). Potassium carbonate (0.5 g) was added followed by (2-bromoethyl)benzene (2.7 g). The mixture was stirred at 95° C. overnight, filtered, and the filtrate was evaporated under reduced pressure. The residue was purified by high performance liquid chromatography (2% methano/dichloromethane) to yield 2.3 g, (84%) of product. Recrystallization from methanol gave the analytical sample, mp 157°-158° C.

reactant | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one | 2 g | C1CC=C2C3=C1C=1N(C4=C(N3C=C2)CC(C=C4)=O)C=NN1 | C16H12N4O
reactant | Potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethyl)benzene | 2.7 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1,2-Dihydro-7-(2-phenylethyl)benzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepin-8(7H)-one | 84% | C1(=CC=CC=C1)CCC1C(C=CC2=C1N1C3=C(C=4N2C=NN4)CCC=C3C=C1)=O | C24H20N4O
